US09108936B2
(4-Bromo-2-methoxy-6-methyl-phenyl)-amine hydrobromide (5.0 g, 23.2 mmol) is suspended in concentrated hydrochloric acid (5.5 ml) and ice (20 g) followed by the drop wise addition of a solution of sodium nitrite (1.63 g, 23.6 mmol) in water (5.5 ml) at 0° C. The resulting mixture is stirred at 0° C. for 30 min and neutralized with aqueous sodium carbonate. This mixture is then added with vigorous stirring at 0° C. to a suspension prepared by mixing copper(I) cyanide (2.6 g, 28.9 mmol) in water (11 ml) with a solution of sodium cyanide (3.6 g, 73.6 mmol) in water (5.5 ml) at 0° C. To the mixture is added toluene (45 ml) and stirred at 0° C. for 1 h, at RT for 2 h and at 50° C. for 1 h. The reaction mixture is cooled and the toluene layer is separated. The organic layer is washed with water (2×40 ml), dried over sodium sulfate and evaporated to get the crude product which is purified by column chromatography (silica gel, 10% ethyl acetate/hexane) to obtain 4-bromo-2-methoxy-6-methyl-benzonitrile (2.8 g, 12.4 mmol, 53%).

reactant | (4-Bromo-2-methoxy-6-methyl-phenyl)-amine hydrobromide | 23.2 mmol, 5.0 g | Br.BrC1=CC(=C(C(=C1)C)N)OC
reactant | sodium nitrite | 23.6 mmol, 1.63 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | copper(I) cyanide | 28.9 mmol, 2.6 g | [Cu]C#N
reactant | sodium cyanide | 73.6 mmol, 3.6 g | [C-]#N.[Na+]
solvent | hydrochloric acid | 5.5 ml | Cl | ClH
solvent | water | 5.5 ml | O | H2O
solvent | water | 11 ml | O | H2O
solvent | water | 5.5 ml | O | H2O
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-methoxy-6-methyl-benzonitrile | 12.4 mmol, 2.8 g, 53% | BrC1=CC(=C(C#N)C(=C1)C)OC | C9H8BrNO
